US08865712B2
e) 1-Azido-2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol
To a solution of methanesulfonic acid 2-(2-bromo-5-fluoro-pyridin-4-yl)-2-hydroxy-propyl ester (10.36 g, 31.6 mmol) in ethanol (160 ml) was added NaN3 (5.13 g, 79.0 mmol) and NH4Cl (8.44 g, 158.0 mmol). The reaction mixture was stirred at 80° C. for 20 h. The reaction mixture was diluted with H2O and TBME and the phases were separated. The aq. phase was twice reextracted with TBME, the combined org. phases were washed with brine, dried over Na2SO4, filtered and concentrated. HPLC RtH4=0.89 min; ESIMS: 275, 277 [(M+H)+]; 1H NMR (400 MHz, CDCl3): δ 8.20 (d, 1H), 7.80 (d, 1H), 3.81 (d, 1H), 3.65 (d, 1H), 1.61 (s, 3H).

reactant | methanesulfonic acid 2-(2-bromo-5-fluoro-pyridin-4-yl)-2-hydroxy-propyl ester | 31.6 mmol, 10.36 g | BrC1=NC=C(C(=C1)C(COS(=O)(=O)C)(C)O)F | C9H11BrFNO4S
reactant | NaN3 | 79.0 mmol, 5.13 g | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 158.0 mmol, 8.44 g | [NH4+].[Cl-]
solvent | ethanol | 160 ml | C(C)O | C2H6O
solvent | H2O | O | H2O
solvent | TBME | CC(C)(C)OC | C5H12O
product | 1-Azido-2-(2-bromo-5-fluoro-pyridin-4-yl)-propan-2-ol | N(=[N+]=[N-])CC(C)(O)C1=CC(=NC=C1F)Br | C8H8BrFN4O
